US07696226B2
ethyl 2-(5-methyl-3-isoxazolyl)-1,3-thiazole-4-carboxylate
5-Methyl-isoxazole-3-carbothioamide (1.0 g, 7.0 mmol) was dissolved in acetone (16 mL) and treated with ethyl bromopyruvate (1 mL, 1 equivalent) and 3.9 g of powdered 3 A molecular sieves. The reaction was stirred at 55° C. under a nitrogen atmosphere for 18 h. The mixture was filtered and evaporated to give 1.06 g of crude material. This material was dissolved in THF (25 mL), cooled to 0° C., and treated with 2,6-lutidine (1.5 mL, 3 equivalents). Trifluoroactetic acid (0.9 mL, 1.5 equivalents) was added and stirring was continued for 2 hrs under a nitrogen atmosphere. The reaction was poured into a 1 M solution of sodium bicarbonate and extracted twice with ethyl acetate (75 mL). The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and the solvent was removed by evaporation. The crude material was purified using chloroform:ethyl acetate (1:1) to give 876 mg (53%) of the title compound.

reactant | 5-Methyl-isoxazole-3-carbothioamide | 7.0 mmol, 1.0 g | CC1=CC(=NO1)C(N)=S | C5H6N2OS
reactant | ethyl bromopyruvate | 1 mL, 1 equivalent | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 2,6-lutidine | 1.5 mL, 3 equivalents | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 16 mL | CC(=O)C | C3H6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | ethyl 2-(5-methyl-3-isoxazolyl)-1,3-thiazole-4-carboxylate | 876 mg, 53% | CC1=CC(=NO1)C=1SC=C(N1)C(=O)OCC | C10H10N2O3S
